US08912188B2
To a solution of 2-phenylfuran (1.20 g, 8.32 mmol) in dry tetrahydrofuran (100 mL) was added a solution of n-BuLi (4.9 mL, 2.5 M solution in hexane) dropwise with stirring at −78° C. under nitrogen. The resulting solution was warmed slowly to −40° C. during 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −78° C. followed by dropwise addition of 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane (3.10 g, 16.66 mmol). After warming to room temperature, the mixture was quenched with NH4Cl (aq) and extracted with ethyl acetate (3×80 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the residue, which was purified by silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford 4,4,5,5-tetramethyl-2-(5-phenylfuran-2-yl)-1,3,2-dioxaborolane (560 mg, 25%).

reactant | 2-phenylfuran | 8.32 mmol, 1.20 g | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
reactant | n-BuLi | 2.5 M, 4.9 mL | [Li]CCCC
reactant | 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane | 16.66 mmol, 3.10 g | CC1(OB(OC1(C)C)OC(C)C)C | C9H19BO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-(5-phenylfuran-2-yl)-1,3,2-dioxaborolane | 560 mg, 25% | CC1(OB(OC1(C)C)C=1OC(=CC1)C1=CC=CC=C1)C | C16H19BO3
